US06573274B1
N-(tert-Butoxycarbonyl)-3-chloro-4-methylaniline (60.0 g) was dissolved in N,N-dimethylformamide (300 ml) and 60% sodium hydride (10.4 g) was gradually added under ice-cooling over 10 min. The reaction mixture was stirred at room temperature for 30 min and methyl iodide (38.8 g) was added dropwise over 15 min under ice-cooling. The reaction mixture was stirred at room temperature for 2 hr and concentrated under reduced pressure. Water (500 ml) was added and the mixture was extracted with ethyl acetate (500 ml). The organic layer was washed successively with water (500 ml), saturated aqueous sodium hydrogen carbonate solution (500 ml) and saturated brine (500 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with hexane:ethyl acetate=9:1. The objective fraction was concentrated under reduced pressure to give N-(tert-butoxycarbonyl)-3-chloro-N,4-dimethylaniline as a pale-yellow oil (62.7 g).

reactant | N-(tert-Butoxycarbonyl)-3-chloro-4-methylaniline | 60.0 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1)C)Cl | C12H16ClNO2
reactant | sodium hydride | 10.4 g | [H-].[Na+]
reactant | methyl iodide | 38.8 g | CI | CH3I
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | N-(tert-butoxycarbonyl)-3-chloro-N,4-dimethylaniline | 62.7 g | C(C)(C)(C)OC(=O)N(C1=CC(=C(C=C1)C)Cl)C | C13H18ClNO2
